US04447441
To a solution of methyl 7-chloro-6-oxoheptanoate (2.0 g.) in hot EtOH (20 ml.) was added a solution of 2,2,2-trifluoroethylamidinothiourea (2.1 g.) in hot EtOH (20 ml.). The resulting mixture was heated under reflux for 1 hour. The mixture was then evaporated to dryness and the residue partitioned between ether (20 ml.) and water (60 ml.). The aqueous layer was separated and basified with sodium bicarbonate and extracted with EtOAc. The EtOAc solution was evaporated to dryness and the residue crystallised from EtOAc/ether containing a small amount of acetone to give methyl 5-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]valerate which was used without further purification.

reactant | methyl 7-chloro-6-oxoheptanoate | 2.0 g | ClCC(CCCCC(=O)OC)=O | C8H13ClO3
reactant | 2,2,2-trifluoroethylamidinothiourea | 2.1 g | FC(CNC(=N)NC(=S)N)(F)F | C4H7F3N4S
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOH | 20 ml | CCO | C2H6O
product | methyl 5-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]valerate | FC(CN=C(NC=1SC=C(N1)CCCCC(=O)OC)N)(F)F | C12H17F3N4O2S
